US07396847B2
(5R)-5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-3-(3-fluoro-4-iodophenyl)-1,3-oxazolidin-2-one
Using essentially the same procedure as that used for (5R)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-3-(4-iodophenyl)-1,3-oxazolidin-2-one (above), but starting from (5R)-3-(3-fluoro-4-iodophenyl)-5-(hydroxymethyl)-1,3-oxazolidin-2-one (2.0 g, 1.0 mM) gave the title compound as a light yellow soild after chromatography using 50% ethyl acetate/hexanes (1.94 g).

reactant | (5R)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-3-(4-iodophenyl)-1,3-oxazolidin-2-one | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)I | C16H24INO3Si
reactant | (5R)-3-(3-fluoro-4-iodophenyl)-5-(hydroxymethyl)-1,3-oxazolidin-2-one | 1.0 mM, 2.0 g | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CO)=O | C10H9FINO3
product | (5R)-5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-3-(3-fluoro-4-iodophenyl)-1,3-oxazolidin-2-one | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)I)F | C16H23FINO3Si
